US06743776B2
A solution of 1-(4-methoxycarbonylphenyl)-4-(4-n-pentyloxyphenyl)butane-1,4-dione (765 mg) and p-toluenesulfonic acid monohydrate (8 mg) in toluene (10 ml) was refluxed for 6 hours. The reaction mixture was diluted with dichloromethane, washed with water and brine, and dried over magnesium sulfate. The solvents were removed under reduced pressure and the precipitate was triturated with methanol, collected by filtration, washed with methanol and dried under reduced pressure to give methyl 4-[5-(4-n-pentyloxyphenyl)furan-2-yl]benzoate (665 mg).

reactant | 1-(4-methoxycarbonylphenyl)-4-(4-n-pentyloxyphenyl)butane-1,4-dione | 765 mg | COC(=O)C1=CC=C(C=C1)C(CCC(=O)C1=CC=C(C=C1)OCCCCC)=O | C23H26O5
reactant | p-toluenesulfonic acid monohydrate | 8 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 4-[5-(4-n-pentyloxyphenyl)furan-2-yl]benzoate | 665 mg | C(CCCC)OC1=CC=C(C=C1)C1=CC=C(O1)C1=CC=C(C(=O)OC)C=C1 | C23H24O4
